US07560558B2
Compound 173: 1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-propyl-phenyl]-ethanone
2-Hydroxy-5-n-propylacetophenone (276 mg), 4-chloro-6,7-dimethoxyquinoline (117 mg), and 4-dimethylaminopyridine (191 mg) were suspended in o-dichlorobenzene (6.5 ml), and the suspension was stirred at 130° C. for 8 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin layer chromatography using acetone-hexane to give the title compound (50 mg, yield 26%).

reactant | 4-chloro-6,7-dimethoxyquinoline | 117 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
reactant | o-dichlorobenzene | 6.5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | 4-dimethylaminopyridine | 191 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-propyl-phenyl]-ethanone | 50 mg, yield 26% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)CCC)C(C)=O | C22H23NO4
